US06130241
3-(7-Octenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione
Sodium hydride (0.11 g) was added to a solution of 3-azabicyclo[3.1.0]hexane-2,4dione (0.3 g) and 7-octenyl bromide (0.52 g) in dimethylformamide (5 ml) and the resulting mixture was stirred at room temperature under a nitrogen atmosphere for 16 hours. The mixture was diluted with water (15 ml) and then extracted with toluene (20 ml). The organic extract was washed with water (15 ml), dried (MgSO4) and evaporated in vacuo. The residue was purified by Kugelrohr distillation (boiling point 130-140° C. @ 0.1 mmHg) to give the title compound as a colourless oil.

reactant | Sodium hydride | 0.11 g | [H-].[Na+]
reactant | 3-azabicyclo[3.1.0]hexane-2,4dione | 0.3 g | C12C(NC(C2C1)=O)=O | C5H5NO2
reactant | 7-octenyl bromide | 0.52 g | C(CCCCCC=C)Br | C8H15Br
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 15 ml | O | H2O
product | 3-(7-Octenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | C(CCCCCC=C)N1C(C2CC2C1=O)=O | C13H19NO2
